US07994163B2
1-Amino-4-methyl-2-pentanone Hydrochloride:
Slurry 2-(4-methyl-2-oxo-pentyl)-isoindole-1,3-dione (2.8 g, 11.4 mmol) in concentrated HCl (18 mL), glacial acetic acid (16 mL) and water (13 mL). Stir the mixture at reflux for 16 h. Cool to room temperature and pour the solution onto ice (25 mL). Filter off the solids, wash the filtrate with cold water (20 mL) and concentrate in vacuo to a solid. Recrystallize the solid in ethanol (15 mL) and diethyl ether (50 mL). Decant off the solvent and dry the white paste under reduced pressure to obtain the desired intermediate as a white solid (1.4 g, 81%).

reactant | 2-(4-methyl-2-oxo-pentyl)-isoindole-1,3-dione | 11.4 mmol, 2.8 g | CC(CC(CN1C(C2=CC=CC=C2C1=O)=O)=O)C | C14H15NO3
reactant | HCl | 18 mL | Cl | ClH
solvent | acetic acid | 16 mL | C(C)(=O)O | C2H4O2
solvent | water | 13 mL | O | H2O
product | 1-Amino-4-methyl-2-pentanone Hydrochloride | 1.4 g, 81% | Cl.NCC(CC(C)C)=O | InChI=1S/C6H13NO.ClH/c1-5(2)3-6(8)4-7;/h5H,3-4,7H2,1-2H3;1H
